US07645771B2
Preparation of 2-chloro-N-{(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]-2-methylpropyl}acetamide
2-chloro-N-{(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]-2-methylpropyl}acetamide was obtained from treating 1,1-dimethylethyl {(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl) carbonyl]-2-methylpropyl}carbamate (0.614 g, 0.95 mmol) with HCl as outlined in the procedure for Example 890 to form {(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl) carbonyl]-2-methylpropyl}amine (0.512 g, 99%). {(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl) carbonyl]-2-methylpropyl}amine (0.050 g, 0.09 mmol), Chloro-acetyl chloride (0.011 g, 0.09 mmol) and DIEA (0.034 g, 0.534 mmol) were reacted following the procedure outlined in Example 890 to give the title compound, 2-chloro-N{(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]-2-methylpropyl}acetamide (0.037 g, 66%) as an oil. ES-LCMS m/z 622 (M+1).

reactant | {(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl) carbonyl]-2-methylpropyl}amine | 0.09 mmol, 0.050 g | FC=1C=C(C=CC1)C1(CCN(CC1)C(=O)[C@H](C(C)C)N)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C33H44FN5O
reactant | Chloro-acetyl chloride | 0.09 mmol, 0.011 g | ClCC(=O)Cl | C2H2Cl2O
reactant | DIEA | 0.534 mmol, 0.034 g | CCN(C(C)C)C(C)C | C8H19N
product | 2-chloro-N{(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]-2-methylpropyl}acetamide | 0.037 g, 66% | ClCC(=O)N[C@@H](C(C)C)C(=O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F | C35H45ClFN5O2
